US04939253
(B) (3S-trans)-[[3-[(t-Butyloxycarbonyl)amino]-4-methyl-2-oxo-1-azetidinyl]oxy]acetic acid, 1-methylethyl ester
11.3 g of Triethylamine was dropped into a solution of 19.5 g of (3S-trans)-3-(t-butyloxycarbonylamino)-1-hydroxy -4-methyl-2-azetidinone and 14.8 g of chloroacetic acid, 1-methylethyl ester in 400 ml of dry dimethylformamide. The whole was stirred at room temperature for 3 days. Triethylamine hydrochloride was filtered off and the solvent was stripped at 35° C. in vacuo. The residual oil was taken up in ether, the extract was allowed to stand in the refrigerator for about two hours, filtered and the ether again evaporated in vacuo. The resulting oily title compound (30 g) containing about 2 g of impurities was used in the next step without further purification.

reactant | Triethylamine | 11.3 g | C(C)N(CC)CC | C6H15N
reactant | (3S-trans)-3-(t-butyloxycarbonylamino)-1-hydroxy -4-methyl-2-azetidinone | 19.5 g | C(C)(C)(C)OC(=O)N[C@@H]1C(N([C@H]1C)O)=O | C9H16N2O4
reactant | chloroacetic acid, 1-methylethyl ester | 14.8 g | ClCC(=O)OC(C)C | C5H9ClO2
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | (3S-trans)-[[3-[(t-Butyloxycarbonyl)amino]-4-methyl-2-oxo-1-azetidinyl]oxy]acetic acid, 1-methylethyl ester | C(C)(C)(C)OC(=O)N[C@@H]1C(N([C@H]1C)OCC(=O)OC(C)C)=O | C14H24N2O6
